US05710297
1.58 g (6.79 mmol) of zirconium tetrahydrochloride are added in portions to a suspension, cooled to -78° C., of 2.60 g (6.79 mmol) of the bistrimethylsilyl-substituted dilithium salt in 100 ml of toluene. The mixture is allowed to warm to room temperature, giving, after stirring for 24 hours, an orange suspension. Insoluble constituents are separated off, and the solvent is evaporated to dryness, giving a red oil. Addition of 20 ml of pentane followed by work-up gives the two diastereomers of the ansa-zirconocene as an orange powder in a crude yield of 1.54 g (43%); m.p. 151° C. (decomp., DSC).

reactant | zirconium tetrahydrochloride | 6.79 mmol, 1.58 g | Cl.Cl.Cl.Cl.[Zr]
reactant | pentane | 20 ml | CCCCC | C5H12
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | zirconocene | [CH-]1C=CC=C1.[CH-]1C=CC=C1.[Zr+2] | InChI=1S/2C5H5.Zr/c2*1-2-4-5-3-1;/h2*1-5H;/q2*-1;+2
